US04228168
25 ml of 5% hydrochloric acid were added to 1.08 g of 1,2,3,4-tetrahydro-1-[3,3-bis(ethoxycarbonyl)-propyl]-2-methyl-β-carboline, and the mixture was stirred at 80° C. for 5 hours. After the reaction was completed, the mixture was treated with activated charcoal powder and then condensed under reduced pressure. 930 mg of 1,2,3,4-tetrahydro-1-(3-carboxypropyl)-2-methyl-β-carboline hydrochloride were thereby obtained. Yield: 79.8%

reactant | hydrochloric acid | 25 ml | Cl | ClH
reactant | 1,2,3,4-tetrahydro-1-[3,3-bis(ethoxycarbonyl)-propyl]-2-methyl-β-carboline | 1.08 g | C(C)OC(=O)C(CCC1N(CCC=2C3=CC=CC=C3NC12)C)C(=O)OCC | C21H28N2O4
reactant | charcoal | C | CH4
product | 1,2,3,4-tetrahydro-1-(3-carboxypropyl)-2-methyl-β-carboline hydrochloride | 930 mg, Yield: 79.8% | Cl.C(=O)(O)CCCC1N(CCC=2C3=CC=CC=C3NC12)C | InChI=1S/C16H20N2O2.ClH/c1-18-10-9-12-11-5-2-3-6-13(11)17-16(12)14(18)7-4-8-15(19)20;/h2-3,5-6,14,17H,4,7-10H2,1H3,(H,19,20);1H
